Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
intubated ___
R Femoral Line ___ - removed
IO placement - removed

 
History of Present Illness:
___ with hx of DVT, CAD/MI, T1DM (gastroparesis, R BKA, 
neuropathy, autonomic dysfunction), HTN, who presents with AMS, 
fever found to have bradycardia,  acute renal failure and 
hyperkalemia. Per ED report prior to intubation and with 
discussion with family, patient has developed nausea and 
vomiting, confusion, and worsening somnolence this morning - per 
her husband and son, the patient minimized most complaints but 
has had worsening fatigue over the past week. They say she has 
not reported any fevers or cough or urinary symptoms this week. 

On arrival to the ED, initial vitals notable for bradycardic to 
___ on arrival, febrile with BP, RR and oxygentation stable. 
Exam was notable for diaphoresis, dried emesis in her mouth and 
a distended but non-tender abdomen and guiac negative stool. She 
was quickly intubated for somnolence in the ED. EKG with 
junctinoal rhythm with rate of 42, RBBB. Femoral CVL and IO 
placed in ED. 

- Labs were notable for: CBC with mild leukocytosis, Hgb 8.6  K 
7.4, AG (17) acidosis, Cr of 3.9 from prior normal baseline. 
Lactate 1.8. UA+. Tox + for methadone, oxycodone, amephetamines. 

- Imaging: CXR notable for RLL PNA and malposition ET tube which 
was pulled back 3cm. CT Head without acute pathology
- Patient was given:  glucagon 10mg, CaCl, Ca gluconate, Insulin 
10mg + gtt, intubated with ketamine and rocuronium, Vancomycin 
and cefepime, 3L IVF and MIVF and sedated with fent/versed
- Consults: Toxicology, Cardiology and Nephrology. 

Cardiology felt that the patient home labetalol 600TID may be 
contributing to the picture and leading to the patient's 
bradycardia and enhanced vagal tone and advised a vasodilitory 
antihypertensive if needed. 

Nephrology recommended trending the patients K and Na and agreed 
that labetalol toxicity may be explaining the picture as a 
breakdown product of labetolol and trigger a + amphetamine in 
tox screen. 

Toxicology agreed that picture could be consistent with BB 
toxicity and advised calcium to maintain iCal at ULN (1.4-1.5)

On arrival to the FICU, patient intubated, sedated. 
 
Past Medical History:
- H/o DVT 
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 

___.
Father - coronary artery disease with MI in her ___, died at 
age ___. 
 
Physical Exam:
ADMISSION EXAM
==============
Vitals:  98.8; 73; 219/64; VENT 450/24/40%
HEENT: AT/NC, PERRL, anicteric sclera, pink conjunctiva, MMM, 
intubated
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, no MRG appreciated
LUNG: Bilateral ventilated breath sounds
ABDOMEN: BS+, obese, non-tender
EXTREMITIES: R BKA. LLE wwp, trace edema
NEURO: intubated and sedated

DISCHARGE EXAM
==============
VS T 97.8  BP 34 / 59  HR 61  RR 18  O2 sat 95 RA   
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline + dentures, thyromegaly
CV: RRR, S1-S2, no m/r/r/g, 1+ pitting edema on LLE stable, 2+
___ on left
Lungs: Stable conversational dyspnea, still with diffuses 
wheezes
B that are slightly improved today, no ronchi
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM, R AKA
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: No rash or ecchymosis, femoral line c/d/I R groin
Psych: Congruent affect, good judgment
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:20AM   PLT COUNT-215
___ 09:20AM   NEUTS-78.4* LYMPHS-11.3* MONOS-9.1 EOS-0.5* 
BASOS-0.3 IM ___ AbsNeut-9.30*# AbsLymp-1.34 AbsMono-1.08* 
AbsEos-0.06 AbsBaso-0.04
___ 09:20AM   WBC-11.9*# RBC-3.09* HGB-8.6* HCT-29.7* 
MCV-96 MCH-27.8 MCHC-29.0* RDW-15.7* RDWSD-55.0*
___ 09:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:20AM   ALBUMIN-3.6 CALCIUM-8.5 MAGNESIUM-2.7*
___ 09:20AM   cTropnT-0.08*
___ 09:20AM   LIPASE-13
___ 09:20AM   ALT(SGPT)-24 AST(SGOT)-37 ALK PHOS-205* TOT 
BILI-0.3 DIR BILI-<0.2 INDIR BIL-0.3
___ 09:20AM   estGFR-Using this
___ 09:20AM   GLUCOSE-311* UREA N-50* CREAT-3.9*# 
SODIUM-129* POTASSIUM-7.4* CHLORIDE-94* TOTAL CO2-18* ANION 
GAP-24*
___ 09:35AM URINE  WBCCLUMP-MANY
___ 09:35AM URINE  RBC-1 WBC->182* BACTERIA-MANY YEAST-NONE 
EPI-<1
___ 09:35AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 09:35AM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 09:35AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-POS* mthdone-POS*
___ 09:35AM URINE  UHOLD-HOLD
___ 09:35AM URINE  OSMOLAL-271
___ 09:35AM URINE  HOURS-RANDOM CREAT-64 SODIUM-39

PERTINENT LABS/MICROBIOLOGY
===========================
___  URINE CULTURE FINAL NEGATIVE
___  BLOOD CULTURE pending
___  BLOOD CULTURE pending
___  MRSA SWAB NEG
___  URINE Legionella Urinary Antigen -NEGATIVE 
___  BLOOD CULTURE Blood Culture, Routine-FINAL NEG
___  BLOOD CULTURE Blood Culture, Routine-FINAL NEG 
___                            ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS
==============

IMAGING
=======
___ cxr
Slight improvement in right lower lung consolidation and minimal 
worsening of  right upper lobe consolidation. 

___ CXR 
Heart size and mediastinum are stable.  There is new right mid 
lung and progressing right lower lobe consolidations  concerning 
for aspiration pneumonia.  Left lung is essentially clear.  No  
evidence of pleural effusion or pneumothorax is seen.  No 
appreciable  pulmonary edema is seen. 
  Substantial degenerative changes in the right shoulder are 
present. 

___ Imaging CHEST (PORTABLE AP) 
1. Right lower lobe pneumonia or aspiration pneumonia. 
2. Malpositioned endotracheal tube entering into right mainstem 
bronchus. 
3. Stable mild cardiomegaly. 

___ Imaging CT HEAD W/O CONTRAST 
There is no acute large territorial infarction, hemorrhage, 
edema or mass.  
Basal cisterns are patent is preservation of gray-white matter 
differentiation. Periventricular and subcortical white matter 
hypodensities are nonspecific, though likely sequelae of chronic 
small vessel ischemic disease. Prominent ventricles and sulci 
suggest age-related involutional changes. Punctate hypodensity 
in the left thalamus is stable, likely a chronic lacune. 
No fracture identified. There is scattered partial opacification 
of the 
anterior and posterior ethmoidal air cells. The remaining 
paranasal sinuses, mastoid air cells and middle ear cavities are 
clear. Visualized portions of the orbits are unremarkable. 

___ Imaging CHEST (PORTABLE AP) 
Endotracheal tube tip 1.4 cm above carina.  Improved pulmonary 
opacities, 
suggesting improving edema. 

___ R Femoral line placement (removed ___

DISCHARGE LABS

 
Brief Hospital Course:
Ms. ___ is a ___ yo CF with PMH DVT, CAD/MI, T1DM with
gastroparesis/CKD stage III, neuropathy/R BKA, autonomic
dysfunction, htn presented on ___ with AMS, severe sepsis,
___ RLL pneumonia and  bradycardia concerning for labetolol
toxicity.

# Acute COPD Exacerbation - resolved
# Acute Hypoxic Respiratory Failure - required intubation on
admission. RA x 24 hours. Desat to mid ___ with movement. HCAP +
likely component of reactive airways disease (vs COPD) and
atelectasis. cXR with increasing aspiration pneumonia. Continued
increase in RUL infiltrate but decrease in RLL raises concern 
for
continued aspiration
--Speech consult could not be done by ___ so will request 
speech evaluation at rehab facility
--Started Advair in addition to home tiotropium, continue 
albuterol prn
--Avoid prednisone if not absolutely necessary - 40 mg caused 
FSBG >500. If have to add, would recommend NPH 20U with dose. 

# HCAP/Aspiration Pneumonia
# Septic Shock - presented with hypotension requiring pressors
and RLL infiltrate on CXR. ?Aspiration. Speech was consulted 
recommendations as above. Also with +urinary tract infection. 
--MRSA swab neg, vanc dc'd on ___, narrowed from 
vanc/ceftriaxone (meropenem for 1 day) to augmentin. 
--Last dose augmentin 875/125 tonight ___. This will 
complete a 10 day course of PNA coverage and a 

# T1DM/DKA on admission: Home lantus decreased to 25U qam 
brittle with night time
insulin. After prednisone was started this was increased back to 
home dose 30U. ___ was consulted and when prednisone was 
removed FSBG were more controlled. 
--Lantus 30U qhs, SSI as prescribed, try not to give large qhs 
doses as pt becomes hypoglycemic in am

# E. coli UTI - Expanded out abx after fever several nights ago
and then narrowed again. 
--augmentin day ___ for complicated UTI due to renal failure, 
last dose tonight ___ as above
(although multifactorial)

# Bradycardia: Resolved. Junctional rhythm and 1st degree block
on admit. EP/toxicology/renal thought BB toxicity. Labetolol 600
TID dc'd on admit. TSH WNL. 
- Continue to monitor
- Continue to hold labetalol for now, avoid BB until f/u with 
PCP

# ___ renal failure
# CKD stage IV-V:  Baseline renal function 1.6-2.5, peaked at 
3.9
on admission. Renal was consulted on admission and felt that
presentation largely consistent with pre-renal etiology. Cr at
baseline 2.1
-- Encourage PO intake,  Strict I/O monitoring, trend UOP
-- Avoid contrast studies/ACE/ARBs/NSAIDs (including PICC)
-- Renally dose medications
-- continue Lasix 

# Hypertension, secondary to chronic kidney disease -
uncontrolled: SBP 240s in ED. ?encephalopathy on admit. DC'd
labetolol 600 TID due to toxicity. 
- Continue amlodipine 10 mg (increased from 5 qd), hydralazine 
25
mg PO q8H (increased from 10 q8)
- clonidine to 0.2 mg po TID (added this admit) - concerned for
SE of dizziness will monitor closely and now pt may have
orthostatic hypotension. Now that BP is more controlled with
trial decreasing to 0.2 BID
--No ACe-I with CKD stage V
- Continue to hold labetalol, if not improving consider low dose
coreg to start and monitor closely and approval by EP

# Anemia of CKD: Patient with worsening anemia during this
admission. No evidence of active bleeding. Likely due to CKD. 
She was recently prescribed Epogen 10,000 units weekly but has
not started this.  No labs today. 1U PRBC this admit.
- Continue iron po, likely start Epogen as outpatient  

CHRONIC ISSUES:
# CAD: Continue home ASA 81, Plavix
# Gastroparesis: Continue home metoclopramide 5mg with meals
# Chronic Pain/Neuropathy: Continue home methadone and 
gabapentin
# Depression: Continue citalopram
# Hypothyroid: Continue home levothyroxine 88 qD
# GERD: Continue home PPI

 
# Functional status: Improving daily, reinforcing rehab likely
will place referrals tomorrow
# Consults: Nephrology signed off, toxicology signed off, EP
signed off
# Diet: CC  
# GI Prophy: not indicated 
# Precautions: None  
# Code status: Full  
# Contact: ___ (husband) Cell phone: ___ 
# ___:  To rehab facility
# Active meds: reviewed 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
2. amLODIPine 5 mg PO DAILY 
3. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
4. Calcitriol 0.25 mcg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Gabapentin 300 mg PO TID 
8. HydrALAZINE 10 mg PO Q8H 
9. Labetalol 600 mg PO TID 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Lidocaine 5% Ointment 1 Appl TP BID 
12. Methadone 5 mg PO TID:PRN pain 
13. Metoclopramide 5 mg PO QIDACHS 
14. Pantoprazole 40 mg PO Q24H 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. travoprost 0.004 % ophthalmic QPM 
17. Ascorbic Acid ___ mg PO BID 
18. Aspirin 81 mg PO DAILY 
19. Cyanocobalamin 1000 mcg PO DAILY 
20. dextran 70-hypromellose 0.1-0.3 % ophthalmic DAILY:PRN 
21. Ferrous GLUCONATE 324 mg PO DAILY 
22. Multivitamins 1 TAB PO DAILY 
23. Glargine 30 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heart burn  
3.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Please take x 1 for end date evening of ___  
4.  Artificial Tears ___ DROP BOTH EYES PRN dry eye  
5.  Benzonatate 100 mg PO TID:PRN Cough  
6.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q4H:PRN sore throat  
7.  CloNIDine 0.2 mg PO BID  
8.  Docusate Sodium 100 mg PO BID  
9.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
This will be in addition to your tiotropium inhaler  
10.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough  
11.  Milk of Magnesia 30 mL PO Q6H:PRN constipation 
Please only use every few days due to your kidney disease  
12.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
13.  Senna 8.6 mg PO BID:PRN constipation  
14.  amLODIPine 10 mg PO DAILY  
15.  HydrALAZINE 25 mg PO Q8H  
16.  Glargine 30 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
17.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
18.  Ascorbic Acid ___ mg PO BID  
19.  Aspirin 81 mg PO DAILY  
20.  Calcitriol 0.25 mcg PO DAILY  
21.  Citalopram 20 mg PO DAILY  
22.  Clopidogrel 75 mg PO DAILY  
23.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
24.  Cyanocobalamin 1000 mcg PO DAILY  
25.  dextran 70-hypromellose 0.1-0.3 % ophthalmic DAILY:PRN  
26.  Ferrous GLUCONATE 324 mg PO DAILY  
27.  Furosemide 20 mg PO DAILY  
28.  Gabapentin 300 mg PO TID  
29.  Levothyroxine Sodium 88 mcg PO DAILY  
30.  Lidocaine 5% Ointment 1 Appl TP BID  
31.  Methadone 5 mg PO TID:PRN pain 
RX *methadone 5 mg 1 tab by mouth TID prn Disp #*9 Tablet 
Refills:*0 
32.  Metoclopramide 5 mg PO QIDACHS  
33.  Multivitamins 1 TAB PO DAILY  
34.  Pantoprazole 40 mg PO Q24H  
35.  Rosuvastatin Calcium 10 mg PO QPM  
36.  Tiotropium Bromide 1 CAP IH DAILY  
37.  travoprost 0.004 % ophthalmic QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute toxic metabolic encephalopathy
Septic Shock due to urinary tract infection and aspiration 
pneumonia
Acute respiratory failure
Pneumonia, aspiration
Urinary Tract Infection
Junctional rhythm/Bradycardia due to labetolol toxicity
acute on Chronic CKD stage IV-V - resolved back to baseline 2.1
Hypertension - multifactorial
T1DM with DKA - resolved
Chronic Pain - on methadone prn

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted with confusion.  You were found to have very 
low heart rates and pneumonia.  You initially required a 
breathing tube (intubation) and were admitted to the intensive 
care unit.  You were treated with antibiotics and your pneumonia 
improved.  Your home labetalol was stopped as it likely caused 
your low heart rates. 

Over the last week, you have had significant improvement in your 
recovery. However, you will benefit from a rehab stay to help 
keep you safe at home. We also started a steroid for your lung 
function but unfortunately this increased your sugars. We have 
since stopped the steroids. We are also concerned about 
aspiration while you are eating, and this may have led to your 
current pneumonia. Speech was consulted and evaluated you 

1. STOP Labetolol 
2. START clonidine 0.2 mg po two times a day
3. INCREASE Hydralazine to 25 mg po three times a day 
4. INCREASE Norvasc/amlodipine to 10 mg every day
5. START Advair 250/50 in addition to your tiotropium inhaler 
for your likely COPD
 
Followup Instructions:
___